US05412117
N-Cyano-N'-methyl-6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboxamidine
A mixture of 0.56 g of N-methyl-6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide, 0.39 g of p-toluenesulfonyl chloride, 0.21 g of triethylamine, and 3 ml of acetonitrile was heated at reflux for 30 minutes. The solvent was removed by distillation, and to the residue were added 0.27 g of cyanamide, 0.17 g of sodium hydride, and 4 ml of ethanol, followed by heating under reflux for 30 minutes. Concentrated hydrochloric acid and water were added to the reaction mixture, and the mixture was extracted with methylene chloride. The organic layer was washed successively with a 2N potassium carbonate aqueous solution and a saturated sodium chloride aqueous solution and dried over magnesium sulfate. The solvent was removed by distillation, and the residue was subjected to silica gel column chromatography (developing solution: n-hexane:ethyl acetate=1:1) and then recrystallized from a mixture of ethyl acetate and diethyl ether to obtain 50 mg of the titled compound.

reactant | N-methyl-6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carbothioamide | 0.56 g | CNC(=S)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | C13H14N2O3S
reactant | p-toluenesulfonyl chloride | 0.39 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 0.21 g | C(C)N(CC)CC | C6H15N
reactant | acetonitrile | 3 ml | C(C)#N | C2H3N
product | N-Cyano-N'-methyl-6-nitro-2,2-dimethyl-2H-1-benzopyran-4-carboxamidine | 50 mg | C(#N)NC(=NC)C1=CC(OC2=C1C=C(C=C2)[N+](=O)[O-])(C)C | C14H14N4O3
